US05292762
To the suspension of 4-chlorobenzhydrazide (8.53 g, 0.05 mole) in methylene chloride (100 ml), equipped with a magnetic stirring bar, a nitrogen inlet, a dropping funnel, and an outlet connected to diluted base solution for trapping the HCl gas, was dropwise added trichloromethyl chloroformate (5.94 g, 0.03 mole). After addition, the reaction mixture was heated to reflux for 2 hr. The reaction was cooled down to room temperature and poured into a mixture of water (500 ml) and hexane (200 ml) and stirred for 10 to 20 min. The resultant precipitate was collected by suction-filtration and was washed with hexane to give a solid product. The product was dried in air at room temperature overnight yielding 5.5 g (60% yield) of 2-(4-chlorophenyl)-1,3,4-oxadiazolin-5-one as a solid, m.p.=225°-227° C. NMR and IR spectra showed the desired structure. Without further purification, this product was subjected to the next step.

reactant | 4-chlorobenzhydrazide | 0.05 mole, 8.53 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | HCl | Cl | ClH
reactant | trichloromethyl chloroformate | 0.03 mole, 5.94 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 2-(4-chlorophenyl)-1,3,4-oxadiazolin-5-one | 5.5 g, 60% yield | ClC1=CC=C(C=C1)C=1OC(NN1)=O | C8H5ClN2O2
